US07351857B2
To a mixture of 2-(3-chloro-6-ethylamino-5,6,7,8-tetrahydro-naphthalen-2-ylsulfanyl)-2-methyl-propionic acid tert-butyl ester and borane complex (80 mg; 201 μmol), dissolved in CH2Cl2 (2 mL), at 0° C. is added p-tolyl chloroformate (35 μL; 241 μmol). The reaction was slowly warmed to RT and allowed to stir at RT for 6 days. The solvent was removed under reduced pressure and the crude residue was purified by flash chromatography (SiO2) eluting with a hexanes-EtOAc gradient to afford 30 mg (29%) of 2-[3-chloro-6-(ethyl-p-tolyloxycarbonyl-amino)-5,6,7,8-tetrahydro-naphthalen-2-ylsulfanyl]-2-methyl-propionic acid tert-butyl ester as a clear oil.

reactant | 2-(3-chloro-6-ethylamino-5,6,7,8-tetrahydro-naphthalen-2-ylsulfanyl)-2-methyl-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(C)SC1=CC=2CCC(CC2C=C1Cl)NCC)=O | C20H30ClNO2S
reactant | p-tolyl chloroformate | 241 μmol, 35 μL | ClC(=O)OC1=CC=C(C=C1)C | C8H7ClO2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-chloro-6-(ethyl-p-tolyloxycarbonyl-amino)-5,6,7,8-tetrahydro-naphthalen-2-ylsulfanyl]-2-methyl-propionic acid tert-butyl ester | 30 mg, 29% | C(C)(C)(C)OC(C(C)(C)SC1=CC=2CCC(CC2C=C1Cl)N(C(=O)OC1=CC=C(C=C1)C)CC)=O | C28H36ClNO4S
